US05962458
A mixture of 7-((2-chloro-4-pyridyl)methoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (150 mg, 0.47 mmol), phosphoryl chloride (0.2 ml) and N,N-dimethylaniline (0.2 ml) in toluene (5 ml) was heated at reflux for 1 hour. The volatiles were removed by evaporation and the residue was partitioned between ethyl acetate and saturated sodium hydrogen carbonate solution. The organic layer was separated, dried (MgSO4) and the solvent removed by evaporation. A solution of 2-fluoro-5-hydroxy-4-methylaniline (67 mg, 0.47 mmol), (prepared as described for the starting material in Example 13), in isopropanol (10 ml) was added to the solid residue and the mixture was heated at reflux for 2 hours. The mixture was allowed to cool and the precipitated product collected by filtration, washed with acetone and dried to give 7-((2-chloro-4-pyridyl)methoxy)-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride (70 mg, 30%).

reactant | 7-((2-chloro-4-pyridyl)methoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 0.47 mmol, 150 mg | ClC1=NC=CC(=C1)COC1=C(C=C2C(NC=NC2=C1)=O)OC | C15H12ClN3O3
reactant | phosphoryl chloride | 0.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 0.2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-fluoro-5-hydroxy-4-methylaniline | 0.47 mmol, 67 mg | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 7-((2-chloro-4-pyridyl)methoxy)-4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxyquinazoline hydrochloride | 70 mg, 30% | Cl.ClC1=NC=CC(=C1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)O)C)F)OC | InChI=1S/C22H18ClFN4O3.ClH/c1-12-5-15(24)17(8-18(12)29)28-22-14-7-19(30-2)20(9-16(14)26-11-27-22)31-10-13-3-4-25-21(23)6-13;/h3-9,11,29H,10H2,1-2H3,(H,26,27,28);1H
